US06930104B2
1-(3-Methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol
Starting with 2-methyl-1,2,3,4-tetrahydro-4-quinolinol (3.00 g, 18.3 mmol) synthesized in the published manner and 3-methoxybenzoic acid (3.34 g, 22.0 mmol), the same procedure as shown in Reference Example 19 was repeated to give the titled compound (1.45 g, yield: 27%) as a white crystal. (cis:trans=1:1)

reactant | 2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 18.3 mmol, 3.00 g | CC1NC2=CC=CC=C2C(C1)O | C10H13NO
reactant | 3-methoxybenzoic acid | 22.0 mmol, 3.34 g | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
product | 1-(3-Methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.45 g, yield: 27% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)O)C)C=CC1 | C18H19NO3
